US05445762
1-((1-Adamantyl)acetyl)-1-aza-4,7,10,13,16,19-hexaoxacycloheneicosane
Analogously to Example 14 from 1-aza-4,7,10,13,16,19-hexaoxacycloheneicosane and (1-adamantyl)acetyl chloride.

reactant | 1-aza-4,7,10,13,16,19-hexaoxacycloheneicosane | N1CCOCCOCCOCCOCCOCCOCC1 | C14H29NO6
reactant | (1-adamantyl)acetyl chloride | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
product | 1-((1-Adamantyl)acetyl)-1-aza-4,7,10,13,16,19-hexaoxacycloheneicosane | C12(CC3CC(CC(C1)C3)C2)CC(=O)N2CCOCCOCCOCCOCCOCCOCC2 | C26H45NO7
